US04150129
The solution of 6.5 g of 3-(2-methoxyiminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone in 150 ml of ethanol is hydrogenated at room temperature and atmospheric pressure in the presence of 10 g of Raney nickel until the uptake of 2 mole equivalents of hydrogen is complete. The mixture is filtered, the filtrate evaporated and the residue dissolved in 100 ml of water and 10 ml of 6 N hydrochloric acid. The acidic solution is washed with diethyl ether, filtered, basified with 30 ml of 3 N aqueous sodium hydroxide and repeatedly extracted with chloroform. The extract is dried, evaporated and the residue is purified by suspension in diethyl ether, to give the 3-(2-aminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone melting at 131°-133°.

reactant | 3-(2-methoxyiminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 6.5 g | CON=C(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C | C17H22N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | 3-(2-aminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | NC(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C | C16H22N2O2
